US08071807B2
To a solution of {3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-trimethylsilanylethynyl-phenyl}-acetic acid methyl ester (0.410 g, 0.8 mmol) in THF (3 mL) was added tetrabutylammonium fluoride (1M in THF; 1.2 mL, 1.2 mmol), and the reaction was stirred for 30 minutes at room temperature. Once no starting material was seen by analytical tlc, the mixture was worked-up with EtOAc and H2O, and the residue was purified by silica gel chromatography to give {4-Ethynyl-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester.

reactant | {3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-trimethylsilanylethynyl-phenyl}-acetic acid methyl ester | 0.8 mmol, 0.410 g | COC(CC1=CC(=C(C=C1)C#C[Si](C)(C)C)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C23H24F3NO5SSi
reactant | tetrabutylammonium fluoride | 1.2 mmol, 1M, 1.2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | H2O | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | {4-Ethynyl-3-[4-nitro-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)C#C)OC1=C(C=C(C=C1)[N+](=O)[O-])CSCC(F)(F)F)=O | C20H16F3NO5S
